US04208510
Preparation of Methyl 2-[3-(p-Chlorophenyl)-5-Isoxazolyl]Benzoate
A solution of 6.3 g. (0.020 mole) of 3'-(p-chlorophenyl)-spiro[isobenzofuran-1(3H),5'(4'H)-isoxazol]-3-one, 2 ml. of concentrated H2SO4 and 300 ml. of methanol was stirred at reflux for 20 hours. The cooled solution was poured into ice water (3 liters) and extracted with ether. The combined organic extracts were washed twice with water, dried over CaSO4 and concentrated under vacuum to yield 5.8 g. of colorless crystals (88%) of product. Recrystallization from hexane afforded 5.4 g. of an analytically pure sample; m.p. 89.5°-91° C.

reactant | 3'-(p-chlorophenyl)-spiro[isobenzofuran-1(3H),5'(4'H)-isoxazol]-3-one | 0.020 mole | ClC1=CC=C(C=C1)C1=NOC2(C1)OC(C1=CC=CC=C12)=O | C16H10ClNO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | methanol | CO | CH4O
product | Methyl 2-[3-(p-Chlorophenyl)-5-Isoxazolyl]Benzoate | ClC1=CC=C(C=C1)C1=NOC(=C1)C1=C(C(=O)OC)C=CC=C1 | C17H12ClNO3
